US07709494B2
2-[5-(4,5-Diphenylpyrimidin-2-ylsulfanyl)pentyl]cyclopropanecarboxylic acid
96 mg (0.2 mmol) of tert-butyl 2-[5-(4,5-diphenylpyrimidin-2-ylsulfanyl)pentyl]-cyclopropanecarboxylate were dissolved in a mixture of 2 ml of dichloromethane and 2 ml of TFA and stirred at room temperature for 2 hours. The residue after removal of all volatile constituents in vacuo was purified by preparative HPLC (method A). 60 mg (87%) of the desired product were obtained.

reactant | tert-butyl 2-[5-(4,5-diphenylpyrimidin-2-ylsulfanyl)pentyl]-cyclopropanecarboxylate | 0.2 mmol, 96 mg | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)SCCCCCC1C(C1)C(=O)OC(C)(C)C | C29H34N2O2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-[5-(4,5-Diphenylpyrimidin-2-ylsulfanyl)pentyl]cyclopropanecarboxylic acid | 60 mg, 87% | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)SCCCCCC1C(C1)C(=O)O | C25H26N2O2S
